US06552067B2
Step F: 4-(3-{2-[4-(4-Fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid.
Analogous to the procedure described for Example 1A, Step F, 4-(3-{2-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester (61.1 mg, 0.143 mmol) was hydrolyzed with 6N NaOH (1 mL) in MeOH (5 mL) at room temperature over 24 h. Purification by medium pressure chromatography eluting with a solvent gradient (CH2Cl2to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2 to 6% MeOH in CH2Cl2 to 10% MeOH in CH2Cl2) provided the title compound (45 mg). 1H NMR (CDCl3) δ7.97 (d, 2H), 7.25 (m, 2H), 7.14 (m, 2H), 6.99 (m, 2H), 3.75-3.58 (m, 3H), 2.97 (m, 1H), 2.69 (m, 4H), 2.40 (m, 2H), 2.15-1.35 (m, 9H); MS 413.8 (M+).

reactant | 4-(3-{2-[4-(4-fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester | 0.143 mmol, 61.1 mg | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC=C(C=C1)F)O)=O | C25H30FNO4
reactant | NaOH | 6N, 1 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(3-{2-[4-(4-Fluoro-phenyl)-3-hydroxy-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid | 45 mg | FC1=CC=C(C=C1)CC(CCC1N(C(CC1)=O)CCCC1=CC=C(C(=O)O)C=C1)O | C24H28FNO4
